US07307076B2
b) 7-hydroxy-5-{1-hydroxy-2-[2-(4-methoxy-phenyl)-1,1-dimethyl-ethylamino]-ethyl}-1H-quinolin-2-one
128 mg (0.27 mmol) 7-benzyloxy-5-{1-hydroxy-2-[2-(4-methoxy-phenyl)-1,1-dimethyl-ethylamino]-ethyl}-1H-quinolin-2-one are dissolved in 12 mL methanol and hydrogenated using palladium on charcoal as catalyst. The reaction mixture is filtered through Celite, eluted with methanol and the filtrate is freed from the solvent. Yield: 65 mg (63%); Rf=0.25 (silica gel, dichloromethane/methanol/ammonia=18:2:1).

reactant | 7-benzyloxy-5-{1-hydroxy-2-[2-(4-methoxy-phenyl)-1,1-dimethyl-ethylamino]-ethyl}-1H-quinolin-2-one | 0.27 mmol, 128 mg | C(C1=CC=CC=C1)OC1=CC(=C2C=CC(NC2=C1)=O)C(CNC(CC1=CC=C(C=C1)OC)(C)C)O | C29H32N2O4
solvent | methanol | 12 mL | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | 7-hydroxy-5-{1-hydroxy-2-[2-(4-methoxy-phenyl)-1,1-dimethyl-ethylamino]-ethyl}-1H-quinolin-2-one | OC1=CC(=C2C=CC(NC2=C1)=O)C(CNC(CC1=CC=C(C=C1)OC)(C)C)O | C22H26N2O4
